US04115095
Preparation of Ethyl 5-(4-Ethoxycarbonylphenyl)-1,2,4-Thiadiazole-3-Carboxylate
A solution of 1.75 g (0.010 mol) of ethyl 2-oxo-1,3,4-oxathiazole-5-carboxylate and 17.5 g (0.10 mol) of ethyl p-cyanobenzoate was stirred at 190° C for 72 hours, cooled, and dissolved in acetone. Gc analysis of the solution revealed that the product had formed in 53% yield. Concentration of the solution to 90° C (0.1 torr) and two crystallizations of the residue from ethanol (charcoal) at -20° C gave 0.72 g (23.5%) of beige solid, mp 66°-67.5° C.

reactant | ethyl 2-oxo-1,3,4-oxathiazole-5-carboxylate | 0.010 mol, 1.75 g | O=C1OC(=NS1)C(=O)OCC | C5H5NO4S
reactant | ethyl p-cyanobenzoate | 0.10 mol, 17.5 g | C(#N)C1=CC=C(C(=O)OCC)C=C1 | C10H9NO2
solvent | acetone | CC(=O)C | C3H6O
product | Ethyl 5-(4-Ethoxycarbonylphenyl)-1,2,4-Thiadiazole-3-Carboxylate | 0.72 g, 23.5% | C(C)OC(=O)C1=CC=C(C=C1)C1=NC(=NS1)C(=O)OCC | C14H14N2O4S
